US08791102B2
Proceeding as in Reference 5, but substituting 4-(3-chlorophenoxy)aniline and (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid, gave (S)-2-amino-3-(benzyloxy)-N-(4-(3-chlorophenoxy)phenyl)propanamide (349 mg, 90%).

reactant | 4-(3-chlorophenoxy)aniline | ClC=1C=C(OC2=CC=C(N)C=C2)C=CC1 | C12H10ClNO
reactant | (S)-3-(benzyloxy)-2-(tert-butoxycarbonylamino)propanoic acid | C(C1=CC=CC=C1)OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C15H21NO5
product | (S)-2-amino-3-(benzyloxy)-N-(4-(3-chlorophenoxy)phenyl)propanamide | 349 mg, 90% | N[C@H](C(=O)NC1=CC=C(C=C1)OC1=CC(=CC=C1)Cl)COCC1=CC=CC=C1 | C22H21ClN2O3
